US07109219B2
5-Benzyloxy-1H-indole-1-carboxylic acid methylamide
Sodium hydride (2.212 g, 55.30 mmol, 60% in oil) was suspended in N,N-dimethylformamide (100 ml), 5-benzyloxyindole (10.29 g, 46.09 mmol) was added thereto while stirred at room temperature, and the reaction mixture was stirred at room temperature for 40 minutes. The reaction mixture was cooled with an ice water bath, and phenyl N-methylcarbamate (8.360 g, 55.30 mmol) was added. After the reaction mixture was stirred for 30 minutes, the solution was stirred at room temperature for 2.5 hours. After water was added to the reaction mixture and the reaction mixture was stirred at room temperature for 1 hour, the crystals were sequentially washed with water and diethyl ether, and dried under aeration to yield the title compound (12.07 g, 43.06 mmol, 93.41%) as pale yellow crystals.

reactant | Sodium hydride | 55.30 mmol, 2.212 g | [H-].[Na+]
reactant | 5-benzyloxyindole | 46.09 mmol, 10.29 g | C(C1=CC=CC=C1)OC=1C=C2C=CNC2=CC1 | C15H13NO
reactant | phenyl N-methylcarbamate | 55.30 mmol, 8.360 g | CNC(OC1=CC=CC=C1)=O | C8H9NO2
reactant | water | O | H2O
solvent | N,N-dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
product | 5-Benzyloxy-1H-indole-1-carboxylic acid methylamide | 43.06 mmol, 12.07 g, 93.41% | CNC(=O)N1C=CC2=CC(=CC=C12)OCC1=CC=CC=C1 | C17H16N2O2
